US04490529
Aminopterin (2.4 g, 0.005 mol) is suspended in 1M NaOAc (500 ml) containing ZnCl2 (0.1 g), and 2N NaOH is added dropwise with stirring until a clear solution forms. Glacial AcOH is then added dropwise to bring the pH to 7.5, and 5 μl of carboxypeptidase G1 (4000 units/ml) is added. The mixture is shaken at 37° C. for 1 day, cooled to 5° C., and suction filtered. The solid is washed thoroughly with H2O, and dried in vacuo on a freeze-drying apparatus to obtain 4-amino-4-deoxypteroic acid (APA) (1.43 g, 86%) as an orange-yellow solid. The analytical sample is prepared by passing a small amount of this material through a microcrystalline cellulose column, with 0.1M glycine, pH 10, as the eluent. Appropriate fractions are pooled and acidified with AcOH, and the precipitate is collected, washed with H2O, and dried in vacuo over P2O5 ; Rf 0.1 (cellulose, pH 7.4 phosphate), dark absorbing spot; UVλmax (0.1N HCl) 243 nm (ε 18,500), 297 (23,900), 337 infl (13,700); UVλmax (0.1N NaOH) 261 nm (ε 30,400), 371 (9,100). Analysis for C, H, and N confirms the composition of APA.

reactant | Aminopterin | 0.005 mol, 2.4 g | C1=CC(=CC=C1C(=O)N[C@@H](CCC(=O)O)C(=O)O)NCC=2C=NC3=C(N2)C(=NC(=N3)N)N | C19H20N8O5
reactant | NaOH | 2N | [OH-].[Na+]
reactant | AcOH | CC(=O)O | C2H4O2
solvent | NaOAc | 1M, 500 ml | CC(=O)[O-].[Na+]
catalyst | ZnCl2 | 0.1 g | [Cl-].[Cl-].[Zn+2]
product | 4-amino-4-deoxypteroic acid | 1.43 g, 86% | C1=CC(=CC=C1C(=O)O)NCC2=CN=C3C(=N2)C(=NC(=N3)N)N | C14H13N7O2
